US06921763B2
A mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.00 g, 11.5 mmol) and sodium hydride (60%, 0.506 g, 12.6 mmol) in DMF (50 mL) was stirred at ambient temperature for 1 h then 4-fluorobenzaldehyde (1.36 mL, 12.6 mmol) was added. The reaction mixture was heated at 100° C. for 21 h. The reaction mixture was cooled to ambient temperature and the precipitate was collected by filtration, washed with DMF (30 mL) and ether (30 mL), and dried to afford 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzaldehyde as a tan solid (2.80 g, 7.61 mmol): 1H NMR (d6-DMSO, 400 MHz): δH 10.03 (1H, s), 8.46 (2H, d, J=8.4 Hz), 8.39 (1H, s), 8.09 (2H, d, J=8.8 Hz); RP-HPLC (Hypersil C18, 5 μm, 100 Å, 15 cm; 5%-100% acetonitrile-0.1 M ammonium acetate over 15 min, 1 mL/min). Rt 9.71 min. MS: MH+ 365.8.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 11.5 mmol, 3.00 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | sodium hydride | 12.6 mmol, 0.506 g | [H-].[Na+]
reactant | 4-fluorobenzaldehyde | 12.6 mmol, 1.36 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzaldehyde | 7.61 mmol, 2.80 g | NC1=C2C(=NC=N1)N(N=C2I)C2=CC=C(C=O)C=C2 | C12H8IN5O
